US08211908B2
To a solution of 260 mg of 1-(2-(4-((3-oxo-3,4-dihydro-2H-pyrido(3,2-b)(1,4)oxazin-6-yl)methylamino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one in 4 mL of ethyl acetate and 2 mL of methanol, 3 mL of 4 mol/L hydrogen chloride/ethyl acetate was added, and the mixture was stirred at room temperature for 12 minutes. The solvent was distilled off under reduced pressure, thereto was added diethyl ether, and the solid was filtered off to obtain 304 mg of 1-(2-(4-((3-oxo-3,4-dihydro-2H-pyrido(3,2-b) (1,4)oxazin-6-yl)methylamino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride as a white solid.

reactant | 1-(2-(4-((3-oxo-3,4-dihydro-2H-pyrido(3,2-b)(1,4)oxazin-6-yl)methylamino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 260 mg | O=C1NC2=C(OC1)C=CC(=N2)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O | C24H28N6O4
reactant | hydrogen chloride ethyl acetate | 4 mol/L, 3 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 mL | CO | CH4O
product | 1-(2-(4-((3-oxo-3,4-dihydro-2H-pyrido(3,2-b) (1,4)oxazin-6-yl)methylamino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | 304 mg | Cl.O=C1NC2=C(OC1)C=CC(=N2)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O | InChI=1S/C24H28N6O4.ClH/c1-33-18-12-20-19(26-14-18)3-5-23(32)30(20)11-10-29-8-6-16(7-9-29)25-13-17-2-4-21-24(27-17)28-22(31)15-34-21;/h2-5,12,14,16,25H,6-11,13,15H2,1H3,(H,27,28,31);1H
